US06962914B2
7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylic acid dihydrochloride (52 mg, 0.091 mmol) was added to a dry flask and cooled to −78° C. Thionyl chloride (38 μL, 0.52 mmol) was added and the reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under a stream of nitrogen then placed under high vacuum. In a separate flask, a suspension of hydroxylamine hydrochloride (29 mg, 0.42 mmol) and potassium carbonate (29 mg, 0.21 mmol) in tetrahydrofuran (600 μL) was stirred at room temperature for 30 minutes. To this suspension was added a solution of the crude acid chloride in dichloromethane (600 μL). The resulting mixture was stirred at room temperature for 16 hours. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution, water, and brine. The organic layer was dried over magnesium sulfate. Filtration and concentration followed by chromatography (100% ethyl acetate to 9:1 ethyl acetate:methanol) provided 7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-hydroxypyrazolo[1,5-a]pyridine-6-carboxamide (12 mg, 26%) as a brownish-yellow solid. Rf 0.42 (19:1 ethyl acetate: methanol); 1H NMR (400 MHz, CDCl3): δ 8.05 (broad 2H), 7.60 (m, 2H), 7.50 (broad, 1H), 7.21 (broad, 1H), 7.13 (t, 2H), 6.29 (d, 1H), 5.91 (broad, 1H), 4.92 (broad, 1H), 4.31 (m, 1H), 2.10-1.97 (broad, 4H), 1.82-1.54 (broad, 12H); MS m/z 516 (M+1).

reactant | 7-(Cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylic acid dihydrochloride | 0.091 mmol, 52 mg | Cl.Cl.C1(CCCC1)NC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)C(=O)O
reactant | Thionyl chloride | 0.52 mmol, 38 μL | S(=O)(Cl)Cl | Cl2OS
reactant | hydroxylamine hydrochloride | 0.42 mmol, 29 mg | Cl.NO
reactant | potassium carbonate | 0.21 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 600 μL | O1CCCC1 | C4H8O
solvent | dichloromethane | 600 μL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)-N-hydroxypyrazolo[1,5-a]pyridine-6-carboxamide | 12 mg, 26% | C1(CCCC1)NC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)C(=O)NO | C28H30FN7O2
